US06982348B2
N-((1RS,2SR)-2-hydroxy-2-(1-naphthalenyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide
A solution of (1RS,2SR)-1-hydroxy-1-(1-naphthalenyl)-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride (150 mg, 0.39 mmol) in ethyl acetate (5 ml) were added 1-naphthoyl chloride (89 ml, 0.59 mmol) and saturated aqueous sodium hydrogen carbonate (5 ml) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (50 ml) and extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (172 mg, 88%).

reactant | (1RS,2SR)-1-hydroxy-1-(1-naphthalenyl)-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride | 0.39 mmol, 150 mg | Cl.OC(C(CC1=CC=C(C=C1)C(F)(F)F)N)C1=CC=CC2=CC=CC=C12
reactant | 1-naphthoyl chloride | 0.59 mmol, 89 ml | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | N-((1RS,2SR)-2-hydroxy-2-(1-naphthalenyl)-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide | 172 mg, 88% | OC(C(CC1=CC=C(C=C1)C(F)(F)F)NC(=O)C1=CC=CC2=CC=CC=C12)C1=CC=CC2=CC=CC=C12 | C31H24F3NO2
